US07598244B2
Synthesis of 7-(4-hydroxyphenyl)-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylamine
Acetic acid (40 ml) and concentrated hydrochloric acid (40 ml) were added to 7-(4-benzyloxyphenyl)-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylamine (the compound obtained in Reference Example 2; 5.70 g), and the obtained mixture was stirred at 80° C. for 3 hours. The resultant product was concentrated under a reduced pressure, and the residue was then washed by suspension in acetone (200 ml) and then in a 50% ethanol solution (100 ml) to obtain the captioned compound (2.60 g).

reactant | hydrochloric acid | 40 ml | Cl | ClH
reactant | 7-(4-benzyloxyphenyl)-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylamine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=NC=2N1N=C(N2)N | C18H15N5O
solvent | Acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 7-(4-hydroxyphenyl)-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylamine | 2.60 g | OC1=CC=C(C=C1)C1=CC=NC=2N1N=C(N2)N | C11H9N5O
